US08389537B2
To a 1 L round-bottom flask equipped with a mechanical stirrer, a thermometer, and a condenser, 4 g of 4-methyl-N-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzamide free base and 500 mL of methanol were charged. The slurry was stirred and heated to 64° C. and held at that temperature for ˜30 minutes. To the resulting clear solution, 7.5 mL of 1 M phosphorous acid solution (in methanol) was added. The mixture was stirred at 64° C. for one hour, cooled down to room temperature by natural cooling (cooling rate ˜0.5° C./min) and held at room temperature for 3-4 hours. The solid was collected by filtration and was dried at 50-55° C./10-20 ton for 8-16 hours to obtain 4-methyl-N-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzamide monophosphate salt (3.25 g) as a white solid. Melting point=˜208° C. (dec.); x-ray diffraction pattern showing maxima at 2θ=6.1°, 7.5°, 9.1°, 15.8°, 17.5°, 18.3°, 21.8°, 23.1°, 24.9°, 26.6°.

reactant | 4-methyl-N-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzamide | 4 g | CC1=C(C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C28H22F3N7O
reactant | phosphorous acid | 1 M, 7.5 mL | P(O)(O)O | H3O3P
solvent | methanol | 500 mL | CO | CH4O
product | 4-methyl-N-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzamide monophosphate salt | 3.25 g | P(=O)(O)(O)O.CC1=C(C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | InChI=1S/C28H22F3N7O.H3O4P/c1-17-5-6-19(10-25(17)37-27-33-9-7-24(36-27)20-4-3-8-32-14-20)26(39)35-22-11-21(28(29,30)31)12-23(13-22)38-15-18(2)34-16-38;1-5(2,3)4/h3-16H,1-2H3,(H,35,39)(H,33,36,37);(H3,1,2,3,4)
